US04450292
(E)-4-(3,4,5-trimethoxyphenyl)-4-oxo-2-butenoic acid
15.8 g of 4-(3,4,5-trimethoxyphenyl)-4-oxo-2-hydroxy butanoic acid obtainedin Example 3, 20 cc of acetic acid and 20 cc of concentrated hydrochloric acid (d-1.18) are heated for 2.5 hours under reflux.

reactant | 4-(3,4,5-trimethoxyphenyl)-4-oxo-2-hydroxy butanoic acid | 15.8 g | COC=1C=C(C=C(C1OC)OC)C(CC(C(=O)O)O)=O | C13H16O7
reactant | hydrochloric acid | 20 cc | Cl | ClH
solvent | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
product | (E)-4-(3,4,5-trimethoxyphenyl)-4-oxo-2-butenoic acid | COC=1C=C(C=C(C1OC)OC)C(/C=C/C(=O)O)=O | C13H14O6
